US08664401B2
Step E: (2R)—N-hydroxy-4-[4-{4-[(6-methoxypyridin-3-yl)methoxy]phenyl}-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanamide
HCl (1.0 N in water, 2.09 mL) was added to a solution of the (2R)-4-[4-{4-[(6-methoxypyridin-3-yl)methoxy]phenyl}-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (245 mg, 0.418 mmol) in IPA (5.0 mL) for 1 hour. The reaction mixture was concentrated and the residue was triturated with IPA to afford a white suspension at 50° C. for 30 minutes. A white solid was collected by filtration. Yield 215 mg/95% LCMS MS ES-500.1. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.54 (s, 3H) 2.07-2.23 (m, 1H) 2.33-2.43 (m, 1H) 3.08 (s, 3H) 3.64-3.79 (m, 1H) 3.83 (s, 3H) 4.00-4.12 (m, 1H) 5.09 (s, 3H) 6.57-6.67 (m, 2H) 6.80-6.88 (m, 1H) 7.05-7.12 (m, 2H) 7.64-7.73 (m, 3H) 7.78 (s, 1H) 8.26 (s, 1H).

reactant | HCl | 1.0 N, 2.09 mL | Cl | ClH
reactant | (2R)-4-[4-{4-[(6-methoxypyridin-3-yl)methoxy]phenyl}-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.418 mmol, 245 mg | COC1=CC=C(C=N1)COC1=CC=C(C=C1)C1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C29H35N3O8S
solvent | IPA | 5.0 mL | CC(C)O | C3H8O
product | (2R)—N-hydroxy-4-[4-{4-[(6-methoxypyridin-3-yl)methoxy]phenyl}-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanamide | ONC([C@@](CCN1C(C=C(C=C1)C1=CC=C(C=C1)OCC=1C=NC(=CC1)OC)=O)(S(=O)(=O)C)C)=O | C24H27N3O7S
